US08334236B2
(1) Production of ethyl 1-benzyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate
1.50 g (6.9 mmol) of ethyl 2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate was dissolved in N,N-dimethylformamide (30 mL), and 1.43 g (10.4 mmol) of potassium carbonate and 1.36 g (7.9 mmol) of benzyl bromide were added thereto. The resulting mixture was stirred for one whole day and night at room temperature. The reaction mixture was poured into water, and the mixture was extracted with diethyl ether. The organic phase was dried, filtered, and concentrated. The residue was purified by column chromatography (ethyl acetate:n-hexane=3:7 to 1:1), and thus 1.95 g (yield: 92%) of the title compound was obtained as colorless crystals.

reactant | ethyl 2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 6.9 mmol, 1.50 g | O=C1NC2=NC=CC=C2C=C1C(=O)OCC | C11H10N2O3
reactant | potassium carbonate | 10.4 mmol, 1.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 7.9 mmol, 1.36 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | ethyl 1-benzyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 1.95 g, yield: 92% | C(C1=CC=CC=C1)N1C(C(=CC2=CC=CN=C12)C(=O)OCC)=O | C18H16N2O3
